US04640920
4-[7-Chloro-4-cinnolinylamino]-N-(1-ethyl-3-piperidyl) benzenesulphonamide
3-Amino-1-ethylpiperidine (0.4 ml) in chloroform (15 ml) was treated with anhydrous sodium carbonate (2.94 g) in water (15 ml) and cooled to 3° C. The mixture was vigorously stirred and treated with 4-(7-chloro-4-cinnolinylamino)benzenesulphonylchloride hydrochloride (1.0 g). The dark orange mixture was stirred at 3° C. for 15 minutes, then at room temperature for 45 minutes. During this period the colour lightened considerably. The chloroform layer was separated and dried over magnesium sulphate. The residue on evaporation solidified when triturated with methanol, to give the title compound (0.5 g), m.p. 213°-15° C. (with decomposition).

reactant | 3-Amino-1-ethylpiperidine | 0.4 ml | NC1CN(CCC1)CC | C7H16N2
reactant | sodium carbonate | 2.94 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(7-chloro-4-cinnolinylamino)benzenesulphonylchloride hydrochloride | 1.0 g | Cl.ClC1=CC=C2C(=CN=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 15 ml | O | H2O
product | 4-[7-Chloro-4-cinnolinylamino]-N-(1-ethyl-3-piperidyl) benzenesulphonamide | 0.5 g | ClC1=CC=C2C(=CN=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)NC1CN(CCC1)CC | C21H24ClN5O2S
